US09302991B2
<Step-2>:(R)—N-(1-(4-(2,2-difluoroethoxy)-3,5-dimethylphenyl)ethyl)-2-methylpropane-2-sulfinamide (single diastereomer)
The title compound is prepared in 89% yield (0.89 g, yellow oil) from 1-(4-(2,2-difluoroethoxy)-3,5-dimethylphenyl)ethanone (0.68 g, 2.98 mmol, Step-1) and (R)-2-methylpropane-2-sulfinamide by the similar manner in Step-4 of Amine-1.

reactant | 1-(4-(2,2-difluoroethoxy)-3,5-dimethylphenyl)ethanone | 2.98 mmol, 0.68 g | FC(COC1=C(C=C(C=C1C)C(C)=O)C)F | C12H14F2O2
reactant | (R)-2-methylpropane-2-sulfinamide | CC(C)(C)[S@@](=O)N | C4H11NOS
product | (R)—N-(1-(4-(2,2-difluoroethoxy)-3,5-dimethylphenyl)ethyl)-2-methylpropane-2-sulfinamide | 89% yield | FC(COC1=C(C=C(C=C1C)C(C)N[S@](=O)C(C)(C)C)C)F | C16H25F2NO2S
